US04677190
PREPARATION OF ETHYL 3,4-DIHYDRO-2H-PYRAN-2-CARBOXYLATE
A mixture of sodium 3,4-dihydro-2H-pyran-2-carboxylate (150.0 g, 10 mol), ethyl iodide (192.3 g, 1.2 mol), sodium carbonate (10 g), and dimethylformamide (500 ml) was heated at 105°-110° C. for 5 hours. The reaction mixture was cooled to room temperature and water (450 ml) was added to dissolve inorganic sales. The mixture was extracted with four 200 ml portions of benzene. The combined organic layers were washed with four 200 ml portions of water and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent was removed by rotary evaporation. The oily residue was distilled under reduced pressure giving a yield of 87% of product having a bp of 75°-80° C.

reactant | sodium 3,4-dihydro-2H-pyran-2-carboxylate | 10 mol, 150.0 g | O1C(CCC=C1)C(=O)[O-].[Na+]
reactant | ethyl iodide | 1.2 mol, 192.3 g | C(C)I | C2H5I
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 450 ml | O | H2O
product | ETHYL 3,4-DIHYDRO-2H-PYRAN-2-CARBOXYLATE | yield of 87% | O1C(CCC=C1)C(=O)OCC | C8H12O3
